US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(2,3-epoxy-3-methylbutoxymethyl)androsta-5,7,16-triene
A solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(hydroxymethyl)androsta-5,7,16-triene (51.6 mg, 0.0947 mmol), sodium hydride (95%, 21.1 mg, 0.879 mmol) and 1-bromo-2,3-epoxy-3-methylbutane (91.2 mg, 0.553 mmol) in tetrahydrofuran (1 ml) was stirred at room temperature for 20 min. and refluxed under heating for 20 min. The reaction solution was diluted with ethyl acetate and washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, evaporated under reduced pressure to remove the solvent, and the thus obtained residue was purified by preparative thin layer chromatography (1 sheet (0.5 mm thickness), hexane:ethyl acetate=10:1, developed twice) to give the titled compound (48.3 mg, 81%) as a pale yellow oil.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(hydroxymethyl)androsta-5,7,16-triene | 0.0947 mmol, 51.6 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H56O3Si2
reactant | sodium hydride | 0.879 mmol, 21.1 mg | [H-].[Na+]
reactant | 1-bromo-2,3-epoxy-3-methylbutane | 0.553 mmol, 91.2 mg | BrCC1C(C)(C)O1 | C5H9BrO
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(2,3-epoxy-3-methylbutoxymethyl)androsta-5,7,16-triene | 48.3 mg, 81% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCC1C(C)(C)O1)O[Si](C)(C)C(C)(C)C | C37H64O4Si2
